2170-07-20 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2170-7-19**] 01:39 PM
 SPUTUM CULTURE - At [**2170-7-19**] 02:35 PM
 ARTERIAL LINE - START [**2170-7-19**] 03:30 PM
 BLOOD CULTURED - At [**2170-7-19**] 03:53 PM
 EKG - At [**2170-7-19**] 03:57 PM
 BLOOD CULTURED - At [**2170-7-19**] 04:30 PM
 EKG - At [**2170-7-19**] 06:35 PM
 ARTERIAL LINE - STOP [**2170-7-19**] 06:47 PM
 RECTAL SWAB - At [**2170-7-19**] 09:00 PM
 FEVER - 101.4
F - [**2170-7-19**] 06:00 PM
   -          aline came out
   -          gasses early this am (most recent first)
                                     pH
                                    7.34
                                    pCO2
                                     74
                                     pO2
                                     61
                                    HCO3
                                     42
                                   BaseXS
                                      9
   Comments:
   pCO2: Verified
   pCO2: Provider Notified [**Name9 (PRE) 54**] [**Name9 (PRE) **] Lab Policy
   Type:Art; Not Intubated; Vent:Spontaneous; FiO2%:80; AADO2:451; Req:75;
   Rate:/18; PEEP:7
   freeCa:1.16
   Lactate:1.0
                                     pH
                                    7.30
                                    pCO2
                                     78
                                     pO2
                                     57
                                    HCO3
                                     40
                                   BaseXS
                                      8
   Comments:
   pCO2: No Calls Made - Not Arterial Blood
   Type:[**Last Name (un) **]
   freeCa:1.12
   O2Sat: 86
   Allergies:
   Iodine; Iodine Containing
   pt. stated poss
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-19**] 04:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2170-7-20**] 04:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-7-19**] 08:00 PM
   Other medications:
   1000 mL NS 3. 1000 mL NS 4. 1000 mL NS 5. 1000 mL NS 6. Acetaminophen
   7. Albuterol 0.083% Neb Soln
   8. Albuterol 0.083% Neb Soln 9. Aspirin 10. Atorvastatin 11.
   Azithromycin 12. Bisacodyl 13. Calcium Gluconate
   14. Clopidogrel 15. DiphenhydrAMINE 16. Docusate Sodium 17.
   Escitalopram Oxalate 18. Famotidine
   19. Fexofenadine 20. Fluticasone-Salmeterol Diskus (250/50) 21.
   Guaifenesin 22. Insulin 23. Ipratropium Bromide Neb
   24. Ipratropium Bromide Neb 25. Lidocaine 1% P.f. 26. Lorazepam 27.
   Magnesium Sulfate 28. MethylPREDNISolone Sodium Succ
   29. Naphazoline-Pheniramine Ophth. Solution 30. Norepinephrine 31.
   Piperacillin-Tazobactam 32. Piperacillin-Tazobactam
   33. Piperacillin-Tazobactam 34. Potassium Chloride 35. Potassium
   Chloride 36. Potassium Chloride
   37. Potassium Chloride 38. Potassium Chloride 39. Potassium Chloride
   40. Potassium Chloride 41. Potassium Chloride
   42. Potassium Chloride 43. Senna 44. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-20**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.8
   HR: 81 (70 - 92) bpm
   BP: 120/51(67) {91/36(53) - 139/70(81)} mmHg
   RR: 16 (14 - 31) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (4 - 13)mmHg
   Total In:
                                                                  9,704 mL
                                                                    515 mL
   PO:
   TF:
   IVF:
                                                                  6,204 mL
                                                                    515 mL
   Blood products:
   Total out:
                                                                  4,255 mL
                                                                  1,245 mL
   Urine:
                                                                  2,655 mL
                                                                  1,245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,449 mL
                                                                   -730 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 649 (336 - 881) mL
   PS : 14 cmH2O
   RR (Spontaneous): 18
   PEEP: 7 cmH2O
   FiO2: 80%
   PIP: 21 cmH2O
   SpO2: 90%
   ABG: 7.36/64/56/37/7
   Ve: 10 L/min
   PaO2 / FiO2: 70
   Physical Examination
   Gen:
   CV:
   Pulm:
   Abd:
   Ext:
   Labs / Radiology
   241 K/uL
   10.6 g/dL
   243 mg/dL
   0.6 mg/dL
   37 mEq/L
   2.8 mEq/L
   8 mg/dL
   98 mEq/L
   141 mEq/L
   31.0 %
   25.1 K/uL
        [image002.jpg]
                             [**2170-7-19**]  03:15 PM
                             [**2170-7-19**]  03:59 PM
                             [**2170-7-19**]  04:22 PM
                             [**2170-7-19**]  10:00 PM
                             [**2170-7-19**]  10:21 PM
                             [**2170-7-19**]  11:20 PM
                             [**2170-7-20**]  05:00 AM
   WBC
   26.6
   28.2
   25.1
   Hct
   31.2
   34
   31.0
   31.0
   Plt
   [**Telephone/Fax (3) 9002**]
   Cr
   0.8
   0.6
   0.6
   TropT
   0.66
   0.47
   0.34
   TCO2
   40
   38
   Glucose
   169
   204
   185
   243
   Other labs: PT / PTT / INR:19.3/28.3/1.8, CK / CKMB /
   Troponin-T:292/20/0.34, ALT / AST:15/43, Alk Phos / T Bili:44/0.6,
   Differential-Neuts:97.2 %, Lymph:1.7 %, Mono:0.9 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.8 g/dL, LDH:255 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Trop trending down 0.9 to 0.34; CK MB 14 to 20; MB index 5.0 to 6.8
   Imaging: CXR [**7-20**]
   CXR [**7-19**] final
   This image covers the lung bases and includes now also the left base
   which was not completely seen on the previous study obtained three
   hours earlier. The left lateral pleural sinus is free from any fluid
   collection.
   The lower border of the previously described left-sided pulmonary
   parenchymal infiltrate is seen and matches what has been described on
   the preceding study.
   When comparison is made with the next preceding study of [**2170-1-21**], the lungs where clear from any focal consolidation. Thus, the
   present study, including this additional image over the lung base
   towards the diagnosis of multifocal parenchymal infiltrates and absence
   of pleural effusion in the pleural sinus makes significant CHF
   unlikely.
   Microbiology: blood ctxs [**2085-7-18**] pending
   urine ctx [**7-19**] pending
   sputum x2: once GPC 3+, GPR 1+; GPC 2+
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   53 y/o M with COPD on continuous home O2, OSA on bipap at night, CAD,
   right diaphragmatic paralysis presents with severe PNA, respiratory
   failure, demand cardiac ischemia, electrolytes abnormalitites.
   1) Sepsis due to Severe multilobar CAP: pt also with sinus symptoms, on
   bipap, concern for mixed flora in this multilobar pneumonia.
   -- zosyn, azithromycin. day 1 [**7-19**]
   -- add Vanc 1G IV given GPC on sputum and await ctx
   -- volume resuscitation as needed; no standing given diastolic heart
   failure
   -- pressors currently off; Map >55 goal
   -- Tylenol for fever
   2) Respiratory Failure: PNA and COPD acute exacerbation by exam
   -- bipap
   -- goal sats > 86%, ideal 90 %
   -- mucinex as expectorant
   -- abx as above
   -- alb/ipra nebs q4hr, and q2hr prn
   -- solumedrol 100 mg q8hr
   -- ABG Q4-6H
   -- check for flu; put on droplet precautions
   3) Cardiac Demand Ischemia: by EKG and enzymes, CK MB fraction at 6.8%
   now
   -- treat hypoxemia and hypotension
   -- cont asa, plavix
   -- hold BB in setting pressor requiring hypotension
   -- paged cards fellow
   -- EKG today
   4) Hypercoagulable: recent diet to lose weight, sepsis
   -- be sure received vit K
   5) Hyperglycemia: no hx DM, likely due to infection/stress. Given will
   be on solumedrol, will need insulin
   -- HISS, increase today
   6) Hypokalemia: on lasix, decreased pCO2 on vent, getting NS hydration
   -- aggressively replete; check early pm and late pm lytes and replete
   7) HL: cont lipitor when able to take Pos
   8) Chronic diastolic CHF and CAD: cont ASA, plavix. Hold bb,
   lisinopril, lasix, metolazone due to hypotension on pressors
   9) Seasonal Allergies: cont montelukast, allegro once able to take Pos
   10) COPD: hold advair discuss, treat acute exacerbation as above.
   11) Depression: cont lexapro once able to take Pos
   12) Dry Eyes: use formulary equivalent for patanol.
   13) Insomnia: patient take Tylenol PM prior to using bipap
   -- benadryl iv hs:prn to assist with bipap usage
   14) Anemia: baseline 32-35, wnl RDW, no significant kidney disease,
   last iron studies 2 yrs ago, suspect AOCD but will investigate, could
   have low level hemolysis from sepsis (although bili 1.1)
   -- iron, B12, folate, haptoglobin and LDH
   -- no colonoscopy in GIcare, maybe due (notify [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 8996**] PCP)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2170-7-19**] 01:00 PM
   Presep Catheter - [**2170-7-19**] 01:39 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: H2B (on at home)
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending respiratory stability

2170-07-20 09:08:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2170-7-19**] 03:30 PM
 ARTERIAL LINE - STOP [**2170-7-19**] 06:47 PM
 FEVER - 101.4
F - [**2170-7-19**] 06:00 PM
   Off levophed
   Challenging electrolyte repletion
   Good UOP
   Allergies:
   Iodine; Iodine Containing
   pt. stated poss
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-19**] 04:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2170-7-20**] 04:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-7-19**] 08:00 PM
   Other medications:
   H2B, [**Last Name (LF) **], [**First Name3 (LF) **], escitalopram, plavix, statin, colace, now off
   levophed, advair, eye gtt for allergies, azithro, SQI, Solumedrol 100
   IV q8, albuterol, atrovent, Zosyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-20**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.4
C (97.6
   HR: 76 (70 - 92) bpm
   BP: 122/62(75) {91/36(53) - 139/70(81)} mmHg
   RR: 19 (14 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 12 (4 - 13)mmHg
   Total In:
                                                                  9,704 mL
                                                                    829 mL
   PO:
                                                                    280 mL
   TF:
   IVF:
                                                                  6,204 mL
                                                                    549 mL
   Blood products:
   Total out:
                                                                  4,255 mL
                                                                  1,505 mL
   Urine:
                                                                  2,655 mL
                                                                  1,505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,449 mL
                                                                   -676 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 649 (336 - 881) mL
   PS : 14 cmH2O
   RR (Spontaneous): 18
   PEEP: 7 cmH2O
   FiO2: 100%
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.34/74/61/37/9
   Ve: 10 L/min
   PaO2 / FiO2: 76
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), substantially obscured by
   breath sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   241 K/uL
   243 mg/dL
   0.6 mg/dL
   37 mEq/L
   2.8 mEq/L
   8 mg/dL
   98 mEq/L
   141 mEq/L
   31.0 %
   25.1 K/uL
         [image002.jpg]
                             [**2170-7-19**]  03:15 PM
                             [**2170-7-19**]  03:59 PM
                             [**2170-7-19**]  04:22 PM
                             [**2170-7-19**]  10:00 PM
                             [**2170-7-19**]  10:21 PM
                             [**2170-7-19**]  11:20 PM
                             [**2170-7-20**]  05:00 AM
                             [**2170-7-20**]  07:53 AM
   WBC
   26.6
   28.2
   25.1
   Hct
   31.2
   34
   31.0
   31.0
   Plt
   [**Telephone/Fax (3) 9002**]
   Cr
   0.8
   0.6
   0.6
   TropT
   0.66
   0.47
   0.34
   TCO2
   40
   38
   42
   Glucose
   169
   204
   185
   243
   Other labs: PT / PTT / INR:19.3/28.3/1.8, CK / CKMB /
   Troponin-T:292/20/0.34, ALT / AST:15/43, Alk Phos / T Bili:44/0.6,
   Differential-Neuts:97.2 %, Lymph:1.7 %, Mono:0.9 %, Eos:0.1 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.8 g/dL, LDH:255 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Imaging: bilateral infiltrates
   Microbiology: GPCs on sputum gram stain
   Assessment and Plan
   53-year-old man with CAP and shock (now off levophed for a couple of
   hours.
   Respiratory failure
          Doing well with NIMV
          [**Month (only) 51**] well need to be intubated but acceptable for now
          Aggressive electrolyte repletion
   Pneumonia, community-acquired
          Some potential viral prodrome, as well as new information of
   GPCs on sputum, raises some concern for influenza, though the story is
   not that typical
          Droplet precautions and influenza DFA
          Add vanco given GPCs on G/S
          Continue azithro for atypicals
          On Zosyn given acuity of illness, while awaiting sputum cx
   Shock
          Off levophed for a few hours
          Appears volume replete based on UOP
   COPD
          On IV steroids
          On bronchodilators
          Antibiotics as above
   NSTEMI / demand ischemia
          Downtrending troponin
          [**Month (only) **] / Plavix / other rx
          Appreciate cardiology
s help
   Hyperglycemia / ?diabetes
          Sliding scale
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I would emphasize
   and add the following points: 53M COPD (home oxygen), CAD (preserved
   EF, dCHF), severe OSA p/w increased SOB, productive cough, emesis found
   to be hypotensive and hypoxemic, CXR c/w pneumonia, WBC >20k c 4%
   bands. In ED, treated with CTX, vanco, zosyn, RIJ placed, xfer MICU on
   levo at 0.11.
   Exam notable for Tm 101.3 BP 106/50 HR 76 RR 17 with sat 91 on NPPV.
   Obese man, mild resp distress on NPPV. JVD appeas flat. Coarse BS L
   base, [**Month (only) **] BS c dullness R. Prolonged exp phase. RRR s1s2. Soft +BS/ No
   edema. Oozing at RIJ site. Labs notable for WBC 26K, HCT 31, K+ 2.3, Cr
   0.8, lactate 1.1, INR 1.6, Tn 0.90. CXR with elevated RHD (chronic),
   multifocal ASD L>>R.
   Agree with plan to manage severe multifocal CAP c/b septic shock with
   broad abx coverage - will use zosyn and azithro for now. Not at high
   risk for MRSA, will hold off on vanco and will check nasal MRSA swab.
   Will check sputum GS/cx and legionella Ag. For mixed hypoxic /
   hypercarbic respiratory failure, will place art line and continue NPPV
   with critical care ventilator. For component of COPD flare, will
   continue nebs and IV steroids. For hypotension, continue IVF, check CVP
   and CvO2; I suspect he will still need a few liters, UOP is already
   picking up, will wean pressors as able, goal UOP >30cc/h. For
   coagulopathy, will check LFTs and replete vitamin K. He is critically
   hypokalemic in the setting of new alkalosis and baseline lasix;
   continue IV repletion and close monitoring. For abnormal EKG and modest
   troponin elevations in the setting of profound stress, will continue
   aspirin and plavix and cycle; may need to consider echo if hypotension
   persists. Remainder of plan as outlined in resident admission note.
   Patient is critically ill
   Total time: 50 min
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2170-7-19**] 01:00 PM
   Presep Catheter - [**2170-7-19**] 01:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2170-07-21 08:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2170-7-20**] 10:10 AM
   DFA to r/o swine flu
   ABG's at 12p, 6p , 11p w/o significant change
   Cards: EKG changes due to demand, check CE's QD, now downtrending
   Flu neg
   UOP steady
   no pressor requirement o/n, but still desats to 70's w/o BIPAP o/n.
   ISS increased due to BG's in the 200's steadily, still in 200's after
   change.
   Allergies:
   Iodine; Iodine Containing
   pt. stated poss
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-20**] 04:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2170-7-21**] 06:00 AM
   Vancomycin - [**2170-7-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-7-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-21**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 72 (71 - 90) bpm
   BP: 128/56(74) {88/46(63) - 139/83(92)} mmHg
   RR: 18 (15 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130 kg (admission): 129.5 kg
   Height: 70 Inch
    CVP: 10 (9 - 12)mmHg
   Total In:
                                                                  3,054 mL
                                                                    750 mL
   PO:
                                                                    640 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,414 mL
                                                                    630 mL
   Blood products:
   Total out:
                                                                  2,845 mL
                                                                    480 mL
   Urine:
                                                                  2,845 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    209 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 598 (87 - 651) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 7 cmH2O
   FiO2: 80%
   PIP: 22 cmH2O
   SpO2: 94%
   ABG: 7.47/58/61/38/15
   Ve: 9.9 L/min
   PaO2 / FiO2: 76
   Physical Examination
   GEN: NAD, pt with bi-pap on
   CV: RRR, no m/r/g appreciated; limited exam
   Resp: bilateral rhonci diffusely, expiratory wheezes
   Abd: soft, NT, ND, + BS
   Ext: warm, well perfused extremeties
   Neuro: alert, grossly oriented
   Labs / Radiology
   243 K/uL
   10.5 g/dL
   180 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.5 mEq/L
   10 mg/dL
   97 mEq/L
   141 mEq/L
   32.3 %
   25.7 K/uL
        [image002.jpg]
                             [**2170-7-20**]  05:00 AM
                             [**2170-7-20**]  07:53 AM
                             [**2170-7-20**]  11:19 AM
                             [**2170-7-20**]  11:38 AM
                             [**2170-7-20**]  04:04 PM
                             [**2170-7-20**]  06:09 PM
                             [**2170-7-20**]  10:41 PM
                             [**2170-7-21**]  12:00 AM
                             [**2170-7-21**]  06:07 AM
                             [**2170-7-21**]  07:59 AM
   WBC
   25.1
   25.7
   Hct
   31.0
   33
   32.3
   Plt
   241
   243
   Cr
   0.6
   0.5
   0.6
   0.6
   TropT
   0.34
   0.26
   0.26
   TCO2
   42
   43
   44
   43
   Glucose
   243
   244
   171
   180
   Other labs: PT / PTT / INR:15.0/24.3/1.3, CK / CKMB /
   Troponin-T:190/12/0.26, ALT / AST:15/43, Alk Phos / T Bili:44/0.6,
   Differential-Neuts:95.9 %, Lymph:2.4 %, Mono:1.7 %, Eos:0.1 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.8 g/dL, LDH:255 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Imaging: [**7-21**] CXR: no major interval change, however final read pending
   Microbiology: Influenza A/B negative
   Blood culture [**7-20**] and [**7-19**] pending
   Acid fast sputum: none
   Sputum: gram + cocci and rods, moderate orapharyngeal flora (pre-lim)
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   53 y/o M with COPD on continuous home O2, OSA on bipap at night, CAD,
   right diaphragmatic paralysis presents with severe PNA, respiratory
   failure, demand cardiac ischemia, electrolytes abnormalitites.
   1) Sepsis due to Severe multilobar CAP: pt also with sinus symptoms, on
   bipap, concern for mixed flora in this multilobar pneumonia.
   -- zosyn, azithromycin. day [**3-4**]
   -- Vanc 1G IV given GPC on sputum and await ctx
   --  Will touch base with ID about best antibiotic coverge
   - volume resuscitation as needed; no standing given diastolic heart
   failure
   -- Tylenol for fever
   2) Respiratory Failure: PNA and COPD acute exacerbation by exam.
   Negative for flu
   -- bipap
   -- goal sats > 86%, ideal 90 %
   -- mucinex as expectorant
   -- abx as above
   -- alb/ipra nebs q4hr, and q2hr prn
   -- solumedrol 100 mg q8hr
   -- ABG Q4-6H- Latest ABG shows alkalosis. Will f/u
   3) Cardiac Demand Ischemia: by EKG and enzymes, CK MB fraction at 6.8%
   now
   -- cont asa, plavix
   -- hold BB in setting of recent pressor requirment
   4) Hypercoagulable: recent diet to lose weight, sepsis
   - will monitor INR
   5) Hyperglycemia: no hx DM, likely due to infection/stress. Given will
   be on solumedrol, will need insulin
   -- HISS, increase today
   6) Hypokalemia: on lasix, decreased pCO2 on vent, getting NS hydration
   -- aggressively replete; check lytes Q12
   7) HL: cont lipitor when able to take Pos
    8) Chronic diastolic CHF and CAD: cont ASA, plavix. Hold bb,
   lisinopril, lasix, metolazone due to hypotension on pressors
   - Will give Lasix 80 IV and monitor UOP
   9) Seasonal Allergies: cont montelukast, allegro once able to take Pos
   10) COPD: hold advair discuss, treat acute exacerbation as above.
   11) Depression: cont lexapro once able to take Pos
   12) Dry Eyes: use formulary equivalent for patanol.
   13) Insomnia: patient take Tylenol PM prior to using bipap
   -- benadryl iv hs:prn to assist with bipap usage
   14) Anemia: baseline 32-35, wnl RDW, no significant kidney disease,
   last iron studies 2 yrs ago, suspect AOCD but will investigate, could
   have low level hemolysis from sepsis (although bili 1.1)
   -- iron, B12, folate, haptoglobin and LDH
   -- no colonoscopy in GIcare, maybe due (notify [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 8996**] PCP)
   ICU Care
   Nutrition: NPO
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2170-7-19**] 01:00 PM
   Presep Catheter - [**2170-7-19**] 01:39 PM
   Prophylaxis:
   DVT: PPI
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2170-07-21 13:07:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   O2 sat dip to 60s with bipap off this am, cyanotic
   24 Hour Events:
 NASAL SWAB - At [**2170-7-20**] 10:10 AM
   DFA to r/o swine flu
   History obtained from Patient
   Allergies:
   Iodine; Iodine Containing
   pt. stated poss
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-20**] 04:23 PM
   Vancomycin - [**2170-7-21**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2170-7-21**] 11:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-7-21**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2170-7-21**] 12:00 PM
   Furosemide (Lasix) - [**2170-7-21**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Allergy / Immunology: No(t) Immunocompromised
   Flowsheet Data as of  [**2170-7-21**] 01:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 84 (72 - 101) bpm
   BP: 129/77(88) {88/46(63) - 139/83(92)} mmHg
   RR: 21 (15 - 33) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 130 kg (admission): 129.5 kg
   Height: 70 Inch
   CVP: 14 (10 - 15)mmHg
   Total In:
                                                                  3,054 mL
                                                                    994 mL
   PO:
                                                                    640 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,414 mL
                                                                    874 mL
   Blood products:
   Total out:
                                                                  2,845 mL
                                                                    610 mL
   Urine:
                                                                  2,845 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    209 mL
                                                                    384 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,120 (87 - 1,120) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 7 cmH2O
   FiO2: 100%
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: 7.47/58/61/39/15
   Ve: 13.8 L/min
   PaO2 / FiO2: 76
   Physical Examination
   General Appearance: Comfortable on BiPap
   Head, Ears, Nose, Throat: Normocephalic, BiPap mask
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: diffuse)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   243 K/uL
   172 mg/dL
   0.6 mg/dL
   39 mEq/L
   3.7 mEq/L
   13 mg/dL
   98 mEq/L
   145 mEq/L
   32.3 %
   25.7 K/uL
        [image002.jpg]
                             [**2170-7-20**]  05:00 AM
                             [**2170-7-20**]  07:53 AM
                             [**2170-7-20**]  11:19 AM
                             [**2170-7-20**]  11:38 AM
                             [**2170-7-20**]  04:04 PM
                             [**2170-7-20**]  06:09 PM
                             [**2170-7-20**]  10:41 PM
                             [**2170-7-21**]  12:00 AM
                             [**2170-7-21**]  06:07 AM
                             [**2170-7-21**]  07:59 AM
   WBC
   25.1
   25.7
   Hct
   31.0
   33
   32.3
   Plt
   241
   243
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   TropT
   0.34
   0.26
   0.26
   TCO2
   42
   43
   44
   43
   Glucose
   243
   244
   171
   180
   172
   Other labs: PT / PTT / INR:15.0/24.3/1.3, CK / CKMB /
   Troponin-T:190/12/0.26, ALT / AST:15/43, Alk Phos / T Bili:44/0.6,
   Differential-Neuts:95.9 %, Lymph:2.4 %, Mono:1.7 %, Eos:0.1 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.8 g/dL, LDH:255 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   53 yo man with hypoxmic respiratory failure, multilobar pneumonia
   1. Repsiratory Failure:  Pt remains tenuous and unable to come off
   NIPPV for any significant length of time.  Discussed situation with
   patient, who is alert and conversive.  Will hold off on intubation for
   now, but continue to have low thresshold to intubate.  Will try to get
   some volume off with Lasix challenge.
   2. Multilobar pneumonia: COnt vanc/zosyn/flagyl.  Given that pt is
   clinical slow to respond - will add meropenem to expand coverage for
   resisient GN organisms.
   PPx: add sq heparin
   Full Code
   Communication with patient.
   Remainder of issues per ICU team.
   Pt is critically ill.  Time spent 35 minutes.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2170-7-19**] 01:00 PM
   Presep Catheter - [**2170-7-19**] 01:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Spoke with patient
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-07-22 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2170-7-21**] 03:00 PM
 NON-INVASIVE VENTILATION - STOP [**2170-7-21**] 03:12 PM
 INVASIVE VENTILATION - START [**2170-7-21**] 03:15 PM
 ARTERIAL LINE - START [**2170-7-21**] 06:07 PM
   - Pt intubated. This improved pC02, however quick drop in C02 resulted
   in alkalosis.
   - Pt got Lasix 80mg IV and had good UOP. PM K was 2.8 and K was
   repleated with 40 IV and 60 PO. Then 2.8 again on ABG. (3.1 on lytes)
   Repleated with 40 IV again.
   - Arterial line placed
   - Changed sedation from propofol to versed and fentanyl. Too narow
   therapeutic range on propofol. If too high made the patient
   hypotensive. If too low, the patient would wake up and gag on ET tube.
   Allergies:
   Iodine; Iodine Containing
   pt. stated poss
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-7-21**] 11:30 AM
   Ciprofloxacin - [**2170-7-21**] 12:00 PM
   Azithromycin - [**2170-7-21**] 04:47 PM
   Vancomycin - [**2170-7-21**] 08:35 PM
   Meropenem - [**2170-7-22**] 01:15 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-7-21**] 08:00 AM
   Furosemide (Lasix) - [**2170-7-21**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-7-22**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-22**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.4
   HR: 78 (64 - 103) bpm
   BP: 91/51(64) {89/47(0) - 121/69(88)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130 kg (admission): 129.5 kg
   Height: 70 Inch
    CVP: 94 (10 - 98)mmHg
   Total In:
                                                                  2,685 mL
                                                                    432 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,565 mL
                                                                    432 mL
   Blood products:
   Total out:
                                                                  3,385 mL
                                                                    305 mL
   Urine:
                                                                  3,385 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -700 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 929 (894 - 1,120) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 91%
   ABG: 7.48/54/62/40/14
   Ve: 10.4 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), loudest
   at apex
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   limited exam
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, aortic pulse
   seen in abdomen
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   244 K/uL
   10.0 g/dL
   187 mg/dL
   0.7 mg/dL
   40 mEq/L
   2.8 mEq/L
   20 mg/dL
   97 mEq/L
   144 mEq/L
   30.1 %
   15.5 K/uL
        [image002.jpg]
                             [**2170-7-21**]  06:07 AM
                             [**2170-7-21**]  07:59 AM
                             [**2170-7-21**]  06:46 PM
                             [**2170-7-21**]  08:40 PM
                             [**2170-7-21**]  08:51 PM
                             [**2170-7-21**]  10:14 PM
                             [**2170-7-21**]  11:31 PM
                             [**2170-7-22**]  01:16 AM
                             [**2170-7-22**]  04:23 AM
                             [**2170-7-22**]  05:00 AM
   WBC
   25.7
   15.5
   Hct
   32.3
   30.1
   Plt
   243
   244
   Cr
   0.6
   0.7
   0.7
   TCO2
   43
   43
   45
   45
   42
   44
   41
   Glucose
   172
   173
   187
   Other labs: PT / PTT / INR:16.8/24.0/1.5, CK / CKMB /
   Troponin-T:190/12/0.26, ALT / AST:15/43, Alk Phos / T Bili:44/0.6,
   Differential-Neuts:94.9 %, Lymph:2.4 %, Mono:2.6 %, Eos:0.0 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.8 g/dL, LDH:255 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: Vitamin B12 521 pg/mL 240 - 900
   Folate 19.4 ng/mL 2.0 - 20
   Haptoglobin 294* mg/dL 30 - 200
   LDH 255*
   Imaging: CXR [**7-22**]: radiology read pending but pt has improved aeration
   in r lung, but consolidations look more dense
   Microbiology: Endotracheal sputum: GRAM STAIN (Final [**2170-7-21**]): <10
   PMNs and <10 epithelial cells/100X field. 1+    (<1 per 1000X FIELD):
   GRAM NEGATIVE ROD(S). QUALITY OF SPECIMEN CANNOT BE ASSESSED
   BC [**7-19**] and [**7-20**] pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   53 y/o M with COPD on continuous home O2, OSA on bipap at night, CAD,
   right diaphragmatic paralysis presents with severe PNA, respiratory
   failure, demand cardiac ischemia, electrolytes abnormalitites.
   1) Sepsis due to Severe multilobar CAP:
   - Touched base with ID about best coverage. Pt now on Azithormycin for
   atypicals, Vancomycin for staph, and Meropenum for pseudomonal and
   ESBL, and Cipro for gram negative. On day 4 of antibiotics, although
   started new regimen yesterday. Vanc level slightly below therapeutic.
   Will speak to pharmacy about changing dosage.
   - Will volume resuscitate as needed, though no standing given diastolic
   heart failure
   - Tylenol for fever
   2) Respiratory Failure: [**1-29**] COPD and PNA
   - Switched from Bipap to intubation [**1-29**] increased work of breathing
   - ABGs show quick drop in CO2 likely led to alkalosis. ABG this AM
   shows improvement. Consider decreasing tidal volume to get pH goal
   around 7.45.
   - goal sats > 86%, ideal 90 %
   - abx as above
   - alb/ipra nebs q4hr, and q2hr prn
   - solumedrol 100 mg q8hr
   - ABG Q-6H
   3) Cardiac Demand Ischemia: by EKG and enzymes, CK MB fraction at 6.8%
   now
   -- cont asa, plavix
   -- hold BB in setting of recent pressor requirment
   4) Hypercoagulable: recent diet to lose weight, sepsis
   - will monitor INR and add LFTs to tomorow's labs
   - Will give Vit K if > 1.8
   5) Hyperglycemia: no hx DM, likely due to infection/stress. Given will
   be on solumedrol, will need insulin
   -- HISS, increase today
   6 Hypokalemia: on lasix and insulin could be contributing to
   hypokalemia
   -- aggressively replete; check lytes Q12. Next set at 10am today
   7) HL: cont lipitor when able to take Pos
    8) Chronic diastolic CHF and CAD: cont ASA, plavix. Hold bb,
   lisinopril, metolazone due to hypotension on pressors
   - Given Lasix 80IV with good UOP yesterday
   - IF ABGs do not improve with vent management, and BP can tolerate,
   give another IV dose today
   9) Seasonal Allergies: cont montelukast, allegro once able to take Pos
   10) COPD: hold advair discuss, treat acute exacerbation as above.
   11) Depression: cont lexapro once able to take Pos
    12) Dry Eyes: use formulary equivalent for patanol.
   13 Anemia: baseline 32-35, wnl RDW, no significant kidney disease, last
   iron studies 2 yrs ago, suspect AOCD but will investigate, could have
   low level hemolysis from sepsis (although bili 1.1)
   - no colonoscopy in GIcare, maybe due (notify [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 8996**] PCP)
   - Consider repleating Fe and addint TIBC, transferrin, and ferritin to
   labs.
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines: Presep Catheter - [**2170-7-19**] 01:39 PM
   Arterial Line - [**2170-7-21**] 06:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: ADD PPI today
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2170-07-22 08:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Multilobar pneumonia.  FIO2 down
   to 50%
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Intubated yesterday.  Art line placed. FIO2 down to .5
   24 Hour Events:
 SPUTUM CULTURE - At [**2170-7-21**] 03:00 PM
 NON-INVASIVE VENTILATION - STOP [**2170-7-21**] 03:12 PM
 INVASIVE VENTILATION - START [**2170-7-21**] 03:15 PM
 ARTERIAL LINE - START [**2170-7-21**] 06:07 PM
   History obtained from icu team
   Patient unable to provide history: Sedated
   Allergies:
   Iodine; Iodine Containing
   pt. stated poss
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-7-21**] 11:30 AM
   Ciprofloxacin - [**2170-7-21**] 12:00 PM
   Azithromycin - [**2170-7-21**] 04:47 PM
   Meropenem - [**2170-7-22**] 01:15 AM
   Vancomycin - [**2170-7-22**] 07:55 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2170-7-21**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-7-22**] 08:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-7-22**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.5
   HR: 72 (64 - 103) bpm
   BP: 98/51(65) {88/47(0) - 121/69(88)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130 kg (admission): 129.5 kg
   Height: 70 Inch
   CVP: 15 (10 - 15)mmHg
   Total In:
                                                                  2,685 mL
                                                                    918 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,565 mL
                                                                    863 mL
   Blood products:
   Total out:
                                                                  3,385 mL
                                                                    430 mL
   Urine:
                                                                  3,385 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -700 mL
                                                                    488 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 929 (929 - 1,120) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 91%
   ABG: 7.48/54/62/40/14
   Ve: 9 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General Appearance: intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   244 K/uL
   187 mg/dL
   0.7 mg/dL
   40 mEq/L
   2.8 mEq/L
   20 mg/dL
   97 mEq/L
   144 mEq/L
   30.1 %
   15.5 K/uL
        [image002.jpg]
                             [**2170-7-21**]  06:07 AM
                             [**2170-7-21**]  07:59 AM
                             [**2170-7-21**]  06:46 PM
                             [**2170-7-21**]  08:40 PM
                             [**2170-7-21**]  08:51 PM
                             [**2170-7-21**]  10:14 PM
                             [**2170-7-21**]  11:31 PM
                             [**2170-7-22**]  01:16 AM
                             [**2170-7-22**]  04:23 AM
                             [**2170-7-22**]  05:00 AM
   WBC
   25.7
   15.5
   Hct
   32.3
   30.1
   Plt
   243
   244
   Cr
   0.6
   0.7
   0.7
   TCO2
   43
   43
   45
   45
   42
   44
   41
   Glucose
   172
   173
   187
   Other labs: PT / PTT / INR:16.8/24.0/1.5, CK / CKMB /
   Troponin-T:190/12/0.26, ALT / AST:15/43, Alk Phos / T Bili:44/0.6,
   Differential-Neuts:94.9 %, Lymph:2.4 %, Mono:2.6 %, Eos:0.0 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.8 g/dL, LDH:255 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   53 yo man with hypoxmic respiratory failure, multilobar pneumonia
   1. Repsiratory Failure:  Now intubated.  FIO2 down to .50.  Will
   continue to attempt to reduce level of support.
   2. Multilobar pneumonia: No on Vanc/[**Last Name (un) 614**]/cipro/flagyl.  Bronch today
   for BAL of LLL.
   PPx: add sq heparin
   Full Code
   Remainder of issues per ICU team.
   Pt is critically ill.  Time spent 35 minutes.
   ICU Care
   Nutrition:
   Comments: start tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2170-7-19**] 01:39 PM
   Arterial Line - [**2170-7-21**] 06:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-07-23 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2170-7-22**] 10:08 AM
   ART line
 BLOOD CULTURED - At [**2170-7-22**] 10:45 AM
   RIJ
 BRONCHOSCOPY - At [**2170-7-22**] 11:08 AM
   -patient bronched and cultures taken
   -Weaned steroids to 60mg Predisone
   -started tube feeds
   -weaned to PSV 15/10 then restarted with AC this AM
   -potassium repleted multiple times
   -got 80mg IV lasix X1 for goal of -500
   -repleting iron
   -8 beat run of NSVT-> enzymes had been NL, EKG done showed TWI ant-lat
   leads new since [**7-20**]. CEs ordered, repete EKG done and appears the
   same; Trop had been trending down.
   -increased ASA to 325
   -NEEDS ID APPROVAL FOR VANC at 7am!!! to get 8am DOSE!
   Allergies:
   Iodine; Iodine Containing
   pt. stated poss
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-7-21**] 11:30 AM
   Ciprofloxacin - [**2170-7-22**] 10:08 AM
   Azithromycin - [**2170-7-22**] 05:15 PM
   Vancomycin - [**2170-7-23**] 12:10 AM
   Meropenem - [**2170-7-23**] 06:10 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2170-7-22**] 11:05 AM
   Furosemide (Lasix) - [**2170-7-22**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-7-22**] 10:02 PM
   Fentanyl - [**2170-7-23**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-23**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 71 (59 - 87) bpm
   BP: 119/66(83) {97/47(64) - 138/82(103)} mmHg
   RR: 11 (8 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.2 kg (admission): 129.5 kg
   Height: 70 Inch
    CVP: 13 (10 - 87)mmHg
   Mixed Venous O2% Sat: 79 - 81
   Total In:
                                                                  3,139 mL
                                                                  1,158 mL
   PO:
   TF:
                                                                    161 mL
                                                                    231 mL
   IVF:
                                                                  2,048 mL
                                                                    597 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                    580 mL
   Urine:
                                                                  3,070 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     69 mL
                                                                    578 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 745 (530 - 745) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 7
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.42/70/78.[**Numeric Identifier 181**]/42/16
   Ve: 4.7 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   248 K/uL
   10.2 g/dL
   144 mg/dL
   0.7 mg/dL
   42 mEq/L
   3.8 mEq/L
   22 mg/dL
   98 mEq/L
   146 mEq/L
   30.1 %
   13.0 K/uL
        [image002.jpg]
                             [**2170-7-22**]  04:23 AM
                             [**2170-7-22**]  05:00 AM
                             [**2170-7-22**]  09:28 AM
                             [**2170-7-22**]  01:38 PM
                             [**2170-7-22**]  05:25 PM
                             [**2170-7-22**]  05:26 PM
                             [**2170-7-22**]  08:54 PM
                             [**2170-7-23**]  01:49 AM
                             [**2170-7-23**]  04:48 AM
                             [**2170-7-23**]  04:54 AM
   WBC
   15.5
   12.3
   13.0
   Hct
   30.1
   29.6
   30.1
   Plt
   244
   235
   248
   Cr
   0.7
   0.7
   0.7
   TropT
   0.13
   TCO2
   41
   45
   44
   47
   46
   47
   47
   Glucose
   187
   211
   144
   Other labs: PT / PTT / INR:17.3/24.0/1.6, CK / CKMB /
   Troponin-T:190/4/0.13, ALT / AST:23/24, Alk Phos / T Bili:45/0.5,
   Amylase / Lipase:/100, Differential-Neuts:94.9 %, Lymph:2.4 %, Mono:2.6
   %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.8 g/dL, LDH:255 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   53 y/o M with COPD on continuous home O2, OSA on bipap at night, CAD,
   right diaphragmatic paralysis presents with severe PNA, respiratory
   failure, demand cardiac ischemia, electrolytes abnormalitites.
   1) Sepsis due to Severe multilobar CAP:
   - Touched base with ID about best coverage. Pt now on Azithormycin [**5-1**]
   for atypicals , Vancomycin [**4-4**] for staph, and Meropenum [**3-4**] and Cipro
   [**3-4**] for double coverage pseudomonas. Cont to monitor Vanc level
   - Will volume resuscitate as needed, though no standing given diastolic
   heart failure
   - Tylenol for fever
   2) Respiratory Failure: [**1-29**] COPD and PNA
   - Trying pressure support this AM and will monitor with Q4 ABG. goal
   sats > 86%, ideal 90 % with pH 7.45
   - abx as above
   - alb/ipra nebs q4hr, and q2hr prn
   - Changed steroids to Prednisone 60mg per OG qday
   3) Cardiac Demand Ischemia: by EKG and enzymes, CK MB fraction at 6.8%
   now
   -- cont asa, plavix
   -- hold BB in setting of recent pressor requirment
   4) Hypercoagulable: recent diet to lose weight, sepsis
   - will monitor INR and add LFTs
   5) Hyperglycemia: no hx DM, likely due to infection/stress. Given will
   be on solumedrol, will need insulin
   -- HISS, increase today
   6 Hypokalemia: on lasix and insulin could be contributing to
   hypokalemia
   -- aggressively replete; check lytes Q12. Next set at 10am today
   7) HL: cont lipitor when able to take Pos
    8) Chronic diastolic CHF and CAD: cont ASA, plavix. Hold bb,
   lisinopril, metolazone due to hypotension on pressors
   - Given Lasix 80IV with good UOP yesterday
   - Goal for today -500cc. If not, give Lasix 80IV again.
   9) Seasonal Allergies: cont montelukast, allegro once able to take Pos
   10) COPD: hold advair discuss, treat acute exacerbation as above.
   11) Depression: cont lexapro once able to take Pos
    12) Dry Eyes: use formulary equivalent for patanol.
   13 Anemia: baseline 32-35, wnl RDW, no significant kidney disease,
   suspect AOCD. Serum iron is 10 on [**7-20**]. Not hemolyzing based on LDH and
   haptoglobin.
   - no colonoscopy in GIcare, maybe due (notify [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 8996**] PCP)
   - guiac stools
   -repleting Iron with ferrous sulfate
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2170-7-22**] 03:05 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2170-7-19**] 01:39 PM
   Arterial Line - [**2170-7-21**] 06:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-07-23 10:20:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2170-7-22**] 10:08 AM
   ART line
 BLOOD CULTURED - At [**2170-7-22**] 10:45 AM
   RIJ
 BRONCHOSCOPY - At [**2170-7-22**] 11:08 AM
   Allergies:
   Iodine; Iodine Containing
   pt. stated poss
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-7-21**] 11:30 AM
   Ciprofloxacin - [**2170-7-22**] 10:08 AM
   Azithromycin - [**2170-7-22**] 05:15 PM
   Vancomycin - [**2170-7-23**] 12:10 AM
   Meropenem - [**2170-7-23**] 06:10 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2170-7-22**] 11:05 AM
   Furosemide (Lasix) - [**2170-7-22**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2170-7-22**] 10:02 PM
   Fentanyl - [**2170-7-23**] 04:15 AM
   Other medications:
   H2B, [**Doctor First Name 613**], lexapro, plavix, statin, eye gtt, azithro, SQH, cipro,
   fent, ativan, meropenem, SQI, asa, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-23**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 71 (59 - 87) bpm
   BP: 117/63(81) {97/47(64) - 138/82(103)} mmHg
   RR: 10 (8 - 20) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.2 kg (admission): 129.5 kg
   Height: 70 Inch
   CVP: 13 (10 - 87)mmHg
   Mixed Venous O2% Sat: 79 - 81
   Total In:
                                                                  3,139 mL
                                                                  1,353 mL
   PO:
   TF:
                                                                    161 mL
                                                                    339 mL
   IVF:
                                                                  2,048 mL
                                                                    684 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                    830 mL
   Urine:
                                                                  3,070 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     69 mL
                                                                    523 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 514 (514 - 745) mL
   PS : 8 cmH2O
   RR (Spontaneous): 10
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 91%
   ABG: 7.42/70/78.[**Numeric Identifier 181**]/42/16
   Ve: 7 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, awake, alert, interactive
   Labs / Radiology
   10.2 g/dL
   248 K/uL
   144 mg/dL
   0.7 mg/dL
   42 mEq/L
   3.8 mEq/L
   22 mg/dL
   98 mEq/L
   146 mEq/L
   30.1 %
   13.0 K/uL
        [image002.jpg]
                             [**2170-7-22**]  04:23 AM
                             [**2170-7-22**]  05:00 AM
                             [**2170-7-22**]  09:28 AM
                             [**2170-7-22**]  01:38 PM
                             [**2170-7-22**]  05:25 PM
                             [**2170-7-22**]  05:26 PM
                             [**2170-7-22**]  08:54 PM
                             [**2170-7-23**]  01:49 AM
                             [**2170-7-23**]  04:48 AM
                             [**2170-7-23**]  04:54 AM
   WBC
   15.5
   12.3
   13.0
   Hct
   30.1
   29.6
   30.1
   Plt
   244
   235
   248
   Cr
   0.7
   0.7
   0.7
   TropT
   0.13
   TCO2
   41
   45
   44
   47
   46
   47
   47
   Glucose
   187
   211
   144
   Other labs: PT / PTT / INR:17.3/24.0/1.6, CK / CKMB /
   Troponin-T:190/4/0.13, ALT / AST:23/24, Alk Phos / T Bili:45/0.5,
   Amylase / Lipase:/100, Differential-Neuts:94.9 %, Lymph:2.4 %, Mono:2.6
   %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.8 g/dL, LDH:255 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR slightly improved; ETT, NG, and CVL OK
   Assessment and Plan
   53-year-old man with CAP and shock (now off levophed for a couple of
   hours.
   Respiratory failure
     * Wean FiO2 and PEEP as tolerated today, hopefully to get in range of
       SBT tomorrow
     * Continue bronchodilators
   Pneumonia, community-acquired
     * Current ABX vanco / [**Last Name (un) 614**] (added after bronch this weekend) / cipro
       / azithro
     * D/C azithro today
     * Will follow bronch cultures.  They were obtained on antibiotics, so
       helpful if positive.  If non-diagnostic, complete [**7-6**] day course.
   COPD
     * On bronchodilators
     * ABX as above
   NSTEMI / demand ischemia
     * Downtrending troponin
     * ASA / Plavix / other rx
   Hyperglycemia / ?diabetes
     * Sliding scale + long-acting
   ICU Care
   Nutrition: on TF
   Glycemic Control:
   Lines:
   Presep Catheter - [**2170-7-19**] 01:39 PM
   Arterial Line - [**2170-7-21**] 06:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 min
   Patient is critically ill

2170-07-24 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2170-7-23**] 09:00 AM
   -FiO2 decreased to 40% and PSV decreased to [**10-4**], w/o significant
   change in ABG, did not tolerate [**8-4**] due to desaturation. Tenacious
   sputum suctioned from ETT, absent gag with decreased sedation RBSI 32
   at 0/5 this AM.
   -Used Lasix and Diamox to diurese.
   -given tylenol through the night to control temp, never >99.8.
   Allergies:
   Iodine; Iodine Containing
   pt. stated poss
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-7-21**] 11:30 AM
   Ciprofloxacin - [**2170-7-22**] 10:08 AM
   Azithromycin - [**2170-7-23**] 05:00 PM
   Meropenem - [**2170-7-23**] 10:11 PM
   Vancomycin - [**2170-7-24**] 02:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2170-7-23**] 03:41 PM
   Heparin Sodium (Prophylaxis) - [**2170-7-23**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-24**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 66 (62 - 86) bpm
   BP: 112/101(104) {97/45(61) - 132/116(212)} mmHg
   RR: 12 (10 - 20) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 131.2 kg (admission): 129.5 kg
   Height: 70 Inch
    CVP: 151 (8 - 191)mmHg
   Total In:
                                                                  4,329 mL
                                                                    425 mL
   PO:
   TF:
                                                                  1,213 mL
                                                                     57 mL
   IVF:
                                                                  1,926 mL
                                                                    367 mL
   Blood products:
   Total out:
                                                                  5,280 mL
                                                                  1,280 mL
   Urine:
                                                                  5,280 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -951 mL
                                                                   -855 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 679 (514 - 679) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI: 32
   SpO2: 90%
   ABG: 7.39/66/57/43/11
   Ve: 6.6 L/min
   PaO2 / FiO2: 143
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   248 K/uL
   10.3 g/dL
   138 mg/dL
   0.6 mg/dL
   43 mEq/L
   3.7 mEq/L
   20 mg/dL
   98 mEq/L
   145 mEq/L
   31.3 %
   12.9 K/uL
        [image002.jpg]
                             [**2170-7-23**]  04:48 AM
                             [**2170-7-23**]  04:54 AM
                             [**2170-7-23**]  10:59 AM
                             [**2170-7-23**]  01:30 PM
                             [**2170-7-23**]  04:38 PM
                             [**2170-7-23**]  04:52 PM
                             [**2170-7-23**]  09:01 PM
                             [**2170-7-24**]  12:56 AM
                             [**2170-7-24**]  01:12 AM
                             [**2170-7-24**]  04:33 AM
   WBC
   13.0
   12.9
   Hct
   30.1
   31.3
   Plt
   248
   248
   Cr
   0.7
   0.7
   0.6
   TCO2
   47
   47
   46
   49
   49
   44
   41
   Glucose
   144
   138
   Other labs: PT / PTT / INR:17.5/24.2/1.6, CK / CKMB /
   Troponin-T:190/4/0.13, ALT / AST:23/24, Alk Phos / T Bili:45/0.5,
   Amylase / Lipase:/100, Differential-Neuts:94.9 %, Lymph:2.4 %, Mono:2.6
   %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.8 g/dL, LDH:255 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR-ETT 4.5 cm above carina, R IJ appropriately placed. No
   obvious change in b/l PNA appearance
   Microbiology: [**7-21**] sputum- 1+gram neg rods
   [**7-22**], [**7-23**], [**7-24**] BCx pending
   [**7-22**] BAL pending
   Assessment and Plan
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   53 y/o M with COPD on continuous home O2, OSA on bipap at night, CAD,
   right diaphragmatic paralysis presents with severe PNA, respiratory
   failure, demand cardiac ischemia, electrolytes abnormalitites.
   1) Sepsis due to Severe multilobar CAP:
   - Vancomycin [**5-4**] for staph, and Meropenum [**4-4**] and Cipro [**4-4**] for double
   coverage pseudomonas.  Vanc level today this AM 14.
   - Will volume resuscitate as needed, though no standing given diastolic
   heart failure
   - Tylenol for fever
   2) Respiratory Failure: [**1-29**] COPD and PNA
   - weaned to [**10-4**], but desaturations at 8/8.  Back to [**12-4**].  RBSI 52 on
   0/5.  Irrigate and suction to clear secretions. SBT this AM.
   - NPO after midnight for potential extubation in AM
   - alb/ipra nebs q4hr, and q2hr prn
   - Changed steroids to Prednisone 40mg per OG qday
    3) Chronic diastolic CHF and CAD: cont ASA, plavix. Hold bb,
   lisinopril, metolazone due to hypotension on pressors
   -monitor I/O today, with goal to keep even until 3pm ABG.  If pH
   stable, then consider diuresis with acetazolamide to prevent
   contraction alkalosis.
   4) Cardiac Demand Ischemia: by EKG and enzymes, CK MB fraction at 6.8%
   now
   -- cont asa, plavix
   -- hold BB in setting of recent pressor requirment
   5) Hyperglycemia: no hx DM, likely due to infection/stress. Given will
   be on solumedrol, will need insulin
   -- HISS and Lantus standing.
   6) Hypercoagulable: recent diet to lose weight, sepsis
   - will monitor INR and add LFTs
   7)  Hypokalemia: on lasix and insulin could be contributing to
   hypokalemia
   -- aggressively replete; check lytes Q24.
   8) HL: cont lipitor when able to take Pos
   9) Seasonal Allergies: cont montelukast, allegro once able to take Pos
   10) COPD: hold advair discuss, treat acute exacerbation as above.
   11) Depression: cont lexapro once able to take Pos
   12) Dry Eyes: use formulary equivalent for patanol.
   13 Anemia: baseline 32-35, wnl RDW, no significant kidney disease,
   suspect AOCD. Serum iron is 10 on [**7-20**]. Not hemolyzing based on LDH and
   haptoglobin.
   - no colonoscopy in GIcare, maybe due (notify [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 8996**] PCP)
   - guiac stools
   -repleting Iron with ferrous sulfate
   ICU Care
   Nutrition:
   Comments: Replete w/ Fiber
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2170-7-19**] 01:39 PM
   Arterial Line - [**2170-7-21**] 06:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-07-25 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2170-7-24**] 09:30 AM
   - failed SBT yesterday for desats
   - Prednisone tapered to 40mg po qday
   - Antibiotics changed, pt now only on levaquin
   - OG tube pulled out. It was replaced and tube feeds restarted
   - Switched sedation to propofol
   - Diuresis goal met with Lasix, so Diamox not given.
   -RSBI on PS 5 this am- 44 then 22 on PS 5, PEEP8, Fi02 40
   Allergies:
   Iodine; Iodine Containing
   pt. stated poss
   Last dose of Antibiotics:
   Ciprofloxacin - [**2170-7-22**] 10:08 AM
   Azithromycin - [**2170-7-23**] 05:00 PM
   Meropenem - [**2170-7-23**] 10:11 PM
   Vancomycin - [**2170-7-24**] 02:30 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2170-7-24**] 09:28 AM
   Heparin Sodium (Prophylaxis) - [**2170-7-24**] 10:17 PM
   Other medications:
   Acetaminophen 3. Albuterol Inhaler 4. Aspirin 5. Atorvastatin 6.
   Bisacodyl 7. Chlorhexidine Gluconate 0.12% Oral Rinse
   8. Clopidogrel 9. DiphenhydrAMINE 10. Docusate Sodium 11. Escitalopram
   Oxalate 12. Famotidine 13. Fexofenadine
   14. Ferrous Sulfate 15. Furosemide 16. Guaifenesin 17. Heparin 18.
   Insulin 19. Ipratropium Bromide MDI
   20. Levofloxacin 21. Naphazoline-Pheniramine Ophth. Solution 22.
   Potassium Chloride 23. Potassium Chloride
   24. PredniSONE 25. Propofol 26. Senna 27. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-25**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 62 (58 - 81) bpm
   BP: 145/77(102) {93/49(63) - 145/83(102)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 129.5 kg
   Height: 70 Inch
    CVP: 3 (-7 - 8)mmHg
   Total In:
                                                                  2,190 mL
                                                                    272 mL
   PO:
   TF:
                                                                    464 mL
                                                                     94 mL
   IVF:
                                                                    737 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  5,590 mL
                                                                    685 mL
   Urine:
                                                                  5,590 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,400 mL
                                                                   -413 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,146 (451 - 1,399) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: 7.40/56/65/37/7
   Ve: 7.2 L/min
   PaO2 / FiO2: 163
   Physical Examination
   GEN: NAD, communicating through vent
   CV: rrr nl s1/s2 no murmurs
   Pulm: CTA b/l from ant
   Abd: +BS, soft NTND
   EXT: no edema
   Labs / Radiology
   274 K/uL
   10.5 g/dL
   112 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.4 mEq/L
   20 mg/dL
   98 mEq/L
   141 mEq/L
   32.0 %
   12.6 K/uL
        [image002.jpg]
                             [**2170-7-24**]  12:56 AM
                             [**2170-7-24**]  01:12 AM
                             [**2170-7-24**]  04:33 AM
                             [**2170-7-24**]  06:26 AM
                             [**2170-7-24**]  08:38 AM
                             [**2170-7-24**]  10:06 AM
                             [**2170-7-24**]  03:53 PM
                             [**2170-7-24**]  04:02 PM
                             [**2170-7-25**]  03:41 AM
                             [**2170-7-25**]  04:16 AM
   WBC
   12.9
   12.6
   Hct
   31.3
   32.0
   Plt
   248
   274
   Cr
   0.6
   0.6
   0.5
   TCO2
   44
   41
   42
   44
   43
   40
   36
   Glucose
   138
   129
   112
   Other labs: PT / PTT / INR:18.2/26.1/1.6, CK / CKMB /
   Troponin-T:190/4/0.13, ALT / AST:23/24, Alk Phos / T Bili:45/0.5,
   Amylase / Lipase:/100, Differential-Neuts:94.9 %, Lymph:2.4 %, Mono:2.6
   %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.8 g/dL, LDH:255 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Microbiology: [**7-24**] sputum, no micro-organisms seen
   [**7-22**] BAL, no organisms, no growth final
   [**7-21**] GNR 1+, no growth final
   [**2085-7-18**], [**2089-7-21**] blood NGTD pending
   Assessment and Plan
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   53 y/o M with COPD on continuous home O2, OSA on bipap at night, CAD,
   right diaphragmatic paralysis presents with severe PNA, respiratory
   failure, demand cardiac ischemia, electrolytes abnormalitites.
   1) Sepsis due to Severe multilobar CAP:
   - Cont levofloxacin (D1 [**7-24**]),(past antibiotics Vanc ([**Date range (1) 9114**]),
   Azithro ([**Date range (1) 9114**]),, Meropenem ([**Date range (1) 9115**])) for 10 days with day 1 as
   [**7-19**].
   - Will volume resuscitate as needed, though no standing given diastolic
   heart failure
   - Tylenol for fever
   2) Respiratory Failure: [**1-29**] COPD and PNA
   - CXR this am
    - RBSI 44on 0/5.  SBT this AM for 1hr.  If ok, extubated to NIPPV and
   BiPAP at night.  If not, continue vent over night, and attempt SBT
   again in AM.
   -Irrigate and suction to clear secretions.
   - alb/ipra nebs q4hr, and q2hr prn
   - Changed steroids to Prednisone 20mg per OG QD
    3) Chronic diastolic CHF and CAD: cont ASA, plavix. Hold bb,
   lisinopril, metolazone due to hypotension on pressors
    -diuresis with
 of yesterday
s lasix dose since Cr still stable and
   had large UOP yesterday.  Check pm lytes.
   4) Cardiac Demand Ischemia: by EKG and enzymes, CK MB fraction at 6.8%
   now
    -- cont asa, plavix
   -- hold BB in setting of recent pressor requirement; restart today if
   hypertensive
   5) Hyperglycemia: no hx DM, likely due to infection/stress. Given will
   be on solumedrol, will need insulin
    -- HISS and Lantus standing.  Hold Lantus as steroids are being weaned
   and pt is NPO.
   6) Hypercoagulable: recent diet to lose weight, sepsis
    - will monitor INR; LFTs normal
   7)  Hypokalemia: on lasix and insulin could be contributing to
   hypokalemia
    -- aggressively replete; check lytes Q24.
   8) HL: cont lipitor when able to take Pos
   9) Seasonal Allergies: cont montelukast, allegro once able to take Pos
   10) COPD: hold advair discuss, treat acute exacerbation as above.
   11) Depression: cont lexapro once able to take Pos
   12) Dry Eyes: use formulary equivalent for patanol.
   13 Anemia: baseline 32-35, wnl RDW, no significant kidney disease,
   suspect AOCD. Serum iron is 10 on [**7-20**]. Not hemolyzing based on LDH and
   haptoglobin.
    - no colonoscopy in GIcare, maybe due (notify [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 8996**] PCP)
   - guiac stools
   -repleting Iron with ferrous sulfate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2170-7-19**] 01:39 PM
   Arterial Line - [**2170-7-21**] 06:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending extubation

2170-07-25 11:17:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Failed SBT.
   Diuresed.
   Allergies:
   Iodine; Iodine Containing
   pt. stated poss
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-23**] 05:00 PM
   Meropenem - [**2170-7-23**] 10:11 PM
   Vancomycin - [**2170-7-24**] 02:30 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2170-7-24**] 10:17 PM
   Other medications:
   H2B, statin, plavix, [**Last Name (LF) 9118**], [**First Name3 (LF) 613**], eye gtt, sqh, chg, mdi's,
   colace, iron, asa, robitussin, levoflox 750, pred @ 40, propofol @ 10,
   sqi
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-25**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 64 (56 - 77) bpm
   BP: 129/85(101) {93/49(63) - 276/246(259)} mmHg
   RR: 24 (11 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 129.5 kg
   Height: 70 Inch
   CVP: 8 (-7 - 8)mmHg
   Total In:
                                                                  2,190 mL
                                                                    451 mL
   PO:
   TF:
                                                                    464 mL
                                                                     94 mL
   IVF:
                                                                    737 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                  5,590 mL
                                                                    935 mL
   Urine:
                                                                  5,590 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,400 mL
                                                                   -484 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (451 - 1,399) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 13 cmH2O
   SpO2: 92%
   ABG: 7.40/56/65/37/7
   Ve: 6 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   274 K/uL
   112 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.4 mEq/L
   20 mg/dL
   98 mEq/L
   141 mEq/L
   32.0 %
   12.6 K/uL
        [image002.jpg]
                             [**2170-7-24**]  12:56 AM
                             [**2170-7-24**]  01:12 AM
                             [**2170-7-24**]  04:33 AM
                             [**2170-7-24**]  06:26 AM
                             [**2170-7-24**]  08:38 AM
                             [**2170-7-24**]  10:06 AM
                             [**2170-7-24**]  03:53 PM
                             [**2170-7-24**]  04:02 PM
                             [**2170-7-25**]  03:41 AM
                             [**2170-7-25**]  04:16 AM
   WBC
   12.9
   12.6
   Hct
   31.3
   32.0
   Plt
   248
   274
   Cr
   0.6
   0.6
   0.5
   TCO2
   44
   41
   42
   44
   43
   40
   36
   Glucose
   138
   129
   112
   Other labs: PT / PTT / INR:18.2/26.1/1.6, CK / CKMB /
   Troponin-T:190/4/0.13, ALT / AST:23/24, Alk Phos / T Bili:45/0.5,
   Amylase / Lipase:/100, Differential-Neuts:94.9 %, Lymph:2.4 %, Mono:2.6
   %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, Albumin:3.8 g/dL, LDH:255 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   53-year-old man with respiratory failure from CAP, on a background hx
   of severe COPD.
   Respiratory failure
   Low RSBI
 SBT and possible trial of extubation.
   Aim for negative 500  cc today
   Pneumonia, community-acquired
   ABX narrowed yesterday
   Will complete course for CAP with levofloxacin.
   COPD
   On bronchodilators
   Weaning prednisone
   ABX as above
   On mucolytic given thickness of secretions
   NSTEMI / demand ischemia
   ASA / Plavix / other rx
   Hyperglycemia / ?diabetes
   Stop long-acting since holding tube feeds and weaning prednisone
   Proph
   SQH
   H2B
   ICU Care
   Nutrition: hold TF peri-extubation
   Glycemic Control:
   Lines:
   Presep Catheter - [**2170-7-19**] 01:39 PM
   Arterial Line - [**2170-7-21**] 06:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin, LMW Heparin, IVC filter
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2170-07-26 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2170-7-25**] 12:31 PM
   -Prednisone tapered to 20mg Qday
   -extubated, good gas 7.46/51/58
   -diuresed and negative 1400 over 20 hours
   -vomited X3, changed back to NPO, protected airway
   -o/n on BiPap gas 7.38/71/54; switched from 8 to 12L O2-> 7.37/72/79
   Allergies:
   Iodine; Iodine Containing
   pt. stated poss
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-23**] 05:00 PM
   Meropenem - [**2170-7-23**] 10:11 PM
   Vancomycin - [**2170-7-24**] 02:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-7-25**] 11:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-26**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 63 (56 - 78) bpm
   BP: 98/52(62) {96/49(62) - 276/246(259)} mmHg
   RR: 14 (11 - 24) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 129.5 kg
   Height: 70 Inch
    CVP: 7 (7 - 11)mmHg
   Total In:
                                                                  1,473 mL
                                                                    323 mL
   PO:
                                                                    620 mL
   TF:
                                                                     94 mL
   IVF:
                                                                    600 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  3,705 mL
                                                                    350 mL
   Urine:
                                                                  2,705 mL
                                                                    350 mL
   NG:
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,232 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: Standby
   Vt (Spontaneous): 747 (480 - 770) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 22
   SpO2: 91%
   ABG: 7.38/71/54/37/12
   Ve: 8.6 L/min
   Physical Examination
   GEN: NAD w/ bipap on
   CV: RRR, no m/r/g
   Resp: distant lung sounds, no crackles or wheezing
   Abd: normoactive bowel sounds, NT, ND,
   Ext: no edema
   Labs / Radiology
   312 K/uL
   11.0 g/dL
   114
   0.5 mg/dL
   37 mEq/L
   3.7 mEq/L
   18 mg/dL
   100 mEq/L
   143 mEq/L
   34.2 %
   12.6 K/uL
        [image002.jpg]
                             [**2170-7-24**]  04:02 PM
                             [**2170-7-25**]  03:41 AM
                             [**2170-7-25**]  04:16 AM
                             [**2170-7-25**]  12:15 PM
                             [**2170-7-25**]  05:34 PM
                             [**2170-7-25**]  05:49 PM
                             [**2170-7-26**]  03:56 AM
                             [**2170-7-26**]  04:00 AM
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  05:29 AM
   WBC
   12.6
   12.6
   Hct
   32.0
   34.2
   Plt
   274
   312
   Cr
   0.5
   0.5
   TCO2
   40
   36
   39
   37
   43
   44
   Glucose
   112
   133
   113
   114
   Other labs: PT / PTT / INR:17.8/27.9/1.6, CK / CKMB /
   Troponin-T:190/4/0.13, ALT / AST:26/21, Alk Phos / T Bili:48/0.6,
   Amylase / Lipase:119/21, Differential-Neuts:79.3 %, Lymph:15.7 %,
   Mono:4.0 %, Eos:0.8 %, Lactic Acid:0.6 mmol/L, Albumin:3.8 g/dL,
   LDH:269 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR [**7-26**]: final radiology read pending, but no significant
   interval change
   Microbiology: BC from [**7-22**]: NGTD
   Bronchial sputum GRAM STAIN (Final [**2170-7-22**]):       3+  (5-10 per 1000X
   FIELD):   POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2170-7-24**]):    NO GROWTH, <1000 CFU/ml.
   Assessment and Plan
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   53 y/o M with COPD on continuous home O2, OSA on bipap at night, CAD,
   right diaphragmatic paralysis presents with severe PNA, respiratory
   failure, demand cardiac ischemia, electrolytes abnormalitites.
   # Sepsis due to Severe multilobar CAP:
   - Day [**8-10**] of antibiotics. Treating with Levofloxacin
   - Tylenol for fever
   # Respiratory Failure: [**1-29**] COPD and PNA. Pt extubated and doing well on
   BiPAP levels slightly higher than home regimen.
   - alb/ipra nebs q4hr, and q2hr prn
   - Continue steroid taper, currently on Prednisone 20 started yesterday
   - Will also start on home Montelukast and Singulair
   - Will have the pulmonary team follow the patient on floor to help
   transition to floor
    # Chronic diastolic CHF and CAD: cont ASA, plavix. Hold bb, metolazone
   due to hypotension
   - Pt has had good UOP yesterday.  Goal is to keep pt even. Will only
   give Lasix if needed
   - Decreased lisinopril to 2.5po qday given hypotension
   # Hypotension:
   - Pt has slightly higher BP in right arm vs. left arm. Likely some
   subclavian stenosis in left
   - Will check BP manually in all extremeties to get a better sense of
   current BP
   - Will remove art line as is not accurately reporting BP
   # Nausea/vomiting: [**1-29**] to rapid food consumption after extubation. No
   N/V overnight
   - Zofran prn
   - Advance diet to clears and progress slowly
   # Cardiac Demand Ischemia: by EKG and enzymes
    -- cont asa, plavix, lisinopril
   -- hold BB in setting of recent pressor requirement; not restarting
   because pt can be hypotensive
   # Hyperglycemia: no hx DM, likely due to infection/stress and steroids.
    -- HISS and Lantus standing.
   # Hypercoagulable: recent diet to lose weight, sepsis
    - will monitor INR; LFTs normal
   # HL: cont lipitor
   # Seasonal Allergies: cont montelukast
   # Depression: cont home meds
   # Dry Eyes: use formulary equivalent for patanol.
   #  Anemia: baseline 32-35, wnl RDW, no significant kidney disease,
   suspect AOCD. Serum iron is 10 on [**7-20**]. Not hemolyzing based on LDH and
   haptoglobin.
   - no colonoscopy in GIcare, maybe due (notify [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 8996**] PCP)
   - guiac stools
   - repleting Iron with ferrous sulfate
   ICU Care
   Nutrition:
   Comments: NPO advance to clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2170-7-19**] 01:39 PM
   Arterial Line - [**2170-7-21**] 06:07 PM
 D/C
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor